US08067448B2
To a solution of 2-chloro-4-fluorobenzonitrile (20.0 g, 128.6 mmol) in THF (200 mL) was added LDA (28% wt in THF, 71.0 mL, 142.0 mmol) at −78° C. After addition, the mixture was stirred at the same temperature for 5 h, then ethylene oxide (9.7 ml, 194.2 mmol) was added. The reaction mixture was allowed to warm to R. T. gradually and stirred overnight. The reaction was quenched by adding saturated aqueous NH4Cl solution and extracted with EtOAc (400 mL). The EtOAc extracts were washed with water, brine and dried over Na2SO4. After the solvent was removed, the residue was purified by SiO2 column to give 2-chloro-4-fluoro-3-(2-hydroxyethyl)benzonitrile (17.0 g, 66%). 1H NMR (400 MHz, CDCl3, δ in ppm) 7.58 (dd, J=5.5, 8.6 Hz, 1H), 7.10 (t, J=8.6 Hz, 1H), 3.88 (m, 2H), 3.13 (t, J=6.8 Hz, 2H).

reactant | 2-chloro-4-fluorobenzonitrile | 128.6 mmol, 20.0 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | LDA | 142.0 mmol, 71.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | ethylene oxide | 194.2 mmol, 9.7 ml | C1CO1 | C2H4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-fluoro-3-(2-hydroxyethyl)benzonitrile | 17.0 g, 66% | ClC1=C(C#N)C=CC(=C1CCO)F | C9H7ClFNO
